* NGSPICE file created from INVm.ext - technology: scmos

.subckt INVX1 A Y vdd gnd
M1000 Y A gnd gnd nfet w=3u l=0.6u
+  ad=6.3p pd=10.2u as=6.3p ps=10.2u
M1001 Y A vdd vdd pfet w=6u l=0.6u
+  ad=12.6p pd=16.2u as=12.6p ps=16.2u
.ends

