* NGSPICE file created from NANDm.ext - technology: scmos

.subckt NAND2X1 A B Y vdd gnd
M1000 a_27_14# A gnd gnd nfet w=6u l=0.6u
+  ad=2.7p pd=6.9u as=12.6p ps=16.2u
M1001 Y B a_27_14# gnd nfet w=6u l=0.6u
+  ad=12.6p pd=16.2u as=2.7p ps=6.9u
M1002 vdd B Y vdd pfet w=6u l=0.6u
+  ad=12.6p pd=16.2u as=7.2p ps=8.4u
M1003 Y A vdd vdd pfet w=6u l=0.6u
+  ad=7.2p pd=8.4u as=12.6p ps=16.2u
.ends

