* NGSPICE file created from NORm.ext - technology: scmos

.subckt NOR2X1 A B Y vdd gnd
M1000 a_25_146# A vdd vdd pfet w=12u l=0.6u
+  ad=3.6p pd=12.6u as=25.2p ps=28.2u
M1001 Y A gnd gnd nfet w=3u l=0.6u
+  ad=3.6p pd=5.4u as=6.3p ps=10.2u
M1002 Y B a_25_146# vdd pfet w=12u l=0.6u
+  ad=25.2p pd=28.2u as=3.6p ps=12.6u
M1003 gnd B Y gnd nfet w=3u l=0.6u
+  ad=6.3p pd=10.2u as=3.6p ps=5.4u
.ends


