** sch_path: /home/dayesong/ETRI050_DesignKit/lab7/sch/inv.sch
.subckt inv A Y vdd gnd
*.ipin A
*.opin Y
*.iopin vdd
*.iopin gnd
M1 Y A vdd vdd pfet w=6u l=0.6u m=1
M2 Y A gnd gnd nfet w=3u l=0.6u m=1
.ends
.end
