** sch_path: /home/dayesong/ETRI050_DesignKit/lab7/sch/tb_xor.sch
**.subckt tb_xor
x1 VDD GND A B Y XORx
vA A GND pulse(0 5 1u 1u 1u 20u 40u)
vB B GND pulse(0 5 1u 1u 1u 40u 80u)
vdd VDD GND 5
**** begin user architecture code



.include ~/ETRI050_DesignKit/tech/05cmos_model_240201.lib
.save all
.tran 5u 200u


**** end user architecture code
**.ends

* expanding   symbol:  /home/dayesong/ETRI050_DesignKit/lab7/sch/XORx.sym # of pins=5
** sym_path: /home/dayesong/ETRI050_DesignKit/lab7/sch/XORx.sym
** sch_path: /home/dayesong/ETRI050_DesignKit/lab7/sch/XORx.sch
.subckt XORx vdd gnd A B Y
*.ipin A
*.ipin B
*.opin Y
*.iopin vdd
*.iopin gnd
x4 vdd A net1 B gnd NORx
x2 vdd net1 net4 gnd INVx
x3 vdd net3 net2 net4 gnd NANDx
x5 vdd net2 Y gnd INVx
x1 vdd A net3 B gnd NANDx
.ends


* expanding   symbol:  /home/dayesong/ETRI050_DesignKit/lab7/sch/NORx.sym # of pins=5
** sym_path: /home/dayesong/ETRI050_DesignKit/lab7/sch/NORx.sym
** sch_path: /home/dayesong/ETRI050_DesignKit/lab7/sch/NORx.sch
.subckt NORx vdd A Y B gnd
*.ipin A
*.ipin B
*.opin Y
*.iopin vdd
*.iopin gnd
M1 net1 A vdd vdd pfet w=12u l=0.6u m=1
M2 Y B net1 vdd pfet w=12u l=0.6u m=1
M3 Y B gnd gnd nfet w=3u l=0.6u m=1
M4 Y A gnd gnd nfet w=3u l=0.6u m=1
.ends


* expanding   symbol:  /home/dayesong/ETRI050_DesignKit/lab7/sch/INVx.sym # of pins=4
** sym_path: /home/dayesong/ETRI050_DesignKit/lab7/sch/INVx.sym
** sch_path: /home/dayesong/ETRI050_DesignKit/lab7/sch/INVx.sch
.subckt INVx vdd A Y gnd
*.ipin A
*.opin Y
*.iopin vdd
*.iopin gnd
M1 Y A vdd vdd pfet w=6u l=0.6u m=1
M2 Y A gnd gnd nfet w=3u l=0.6u m=1
.ends


* expanding   symbol:  /home/dayesong/ETRI050_DesignKit/lab7/sch/NANDx.sym # of pins=5
** sym_path: /home/dayesong/ETRI050_DesignKit/lab7/sch/NANDx.sym
** sch_path: /home/dayesong/ETRI050_DesignKit/lab7/sch/NANDx.sch
.subckt NANDx vdd A Y B gnd
*.ipin A
*.ipin B
*.opin Y
*.iopin vdd
*.iopin gnd
M3 Y A net1 gnd nfet w=6u l=0.6u m=1
M4 Y B vdd vdd pfet w=6u l=0.6u m=1
M2 Y A vdd vdd pfet w=6u l=0.6u m=1
M1 net1 B gnd gnd nfet w=6u l=0.6u m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
